US05045550
A solution of 5-(4-pyridinyl)-1-pentanol (3.7 g, 0.0225 mol) in 50 mL of chloroform is treated with thionyl chloride (5.4 g, 0.0449 mol) in 25 mL of chloroform. The resulting solution is neutralized with a saturated solution of sodium bicarbonate and extracted with chloroform. The organic phase is dried (sodium sulfate) and evaporated in vacuo to give 3.86 g of 5-(4-pyridinyl)-1-pentylchloride as a brown oil.

reactant | 5-(4-pyridinyl)-1-pentanol | 0.0225 mol, 3.7 g | N1=CC=C(C=C1)CCCCCO | C10H15NO
reactant | thionyl chloride | 0.0449 mol, 5.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-pyridinyl)-1-pentylchloride | 3.86 g | N1=CC=C(C=C1)CCCCCCl | C10H14ClN
